US09359375B2
To a solution of (R)-methyl 2-(3-bromo-4-cyanophenylamino)-2-phenylacetate (98 mg, 0.28 mmol) in THF (2 mL), 1N aq. NaOH (1.00 mL, 1.00 mmol) was added. After being stirred for 18 h, the solution was acidified with 1N HCl to pH 1-2. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetic acid (90 mg).

reactant | (R)-methyl 2-(3-bromo-4-cyanophenylamino)-2-phenylacetate | 0.28 mmol, 98 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)OC)C1=CC=CC=C1 | C16H13BrN2O2
reactant | NaOH | 1.00 mmol, 1N, 1.00 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetic acid | 90 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)O)C1=CC=CC=C1 | C15H11BrN2O2
